US05504095
2. 3-Methyl-3,4-dihydro-1H-2,1,3-benzothiadiazine-2,2dioxide
2-Amino-N-methyl-benzylamine (3.7 g;27mmol) and sulfamide (5.2 g: 54 mmol) were dissolved in pyridine (40 ml). Mixture was refluxed for 3 hours, then the solvent was removed in vacuo, and water (50 ml) was added. Reaction mixture was extracted with ethyl acetate. Extract was dried over magnesium sulfate and solvent was evaporated off. Crude product was recrystallized from chloroform-hexane, to give the product, (4.4 g).

reactant | 2-Amino-N-methyl-benzylamine | 27mmol, 3.7 g | NC1=C(CNC)C=CC=C1 | C8H12N2
reactant | sulfamide | 54 mmol, 5.2 g | S(=O)(=O)(N)N | H4N2O2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-3,4-dihydro-1H-2,1,3-benzothiadiazine-2,2dioxide | CN1S(NC2=C(C1)C=CC=C2)(=O)=O | C8H10N2O2S
